US05442060
To 8.7 g of N-(2, 6-diisopropylphenyl)-p-toluenesulfonamide (8.7 g) were added 6.3 ml of 60% nitric acid, 50 ml of water and 50 ml of acetic acid, then 0.18 g of sodium nitrite, and the resultant mixture was stirred under refluxing and heating for 5 hours. After cooling, the reaction mixture was mixed with 200 ml of water, and the precipitated crystals were filtered and recrystallized from 50 ml of ethanol to give 4.7 g of N-(2, 6-diisopropyl-4-nitropheyl)-p-toluenesulfonamide. This compound was hydrolyzed in aqueous sulfuric acid to give 2.7 g of 2, 6-diisopropyl-4-nitroaniline.

reactant | N-(2, 6-diisopropylphenyl)-p-toluenesulfonamide | 8.7 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C19H25NO2S
reactant | nitric acid | 6.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 0.18 g | N(=O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | N-(2, 6-diisopropyl-4-nitropheyl)-p-toluenesulfonamide | 4.7 g | C(C)(C)C1=C(C(=CC(=C1)[N+](=O)[O-])C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C | C19H24N2O4S
